US04985560
N-[2-(4-Morpholinyl)ethyl]-4-methylpyridazino[4,5-b]indolizin-1-amine
Following the procedure of Example 1, reaction of one equivalent of 1-chloro-4-methylpyridazino[4,5-b]indolizine and 27 equivalents of 4-(2-aminoethyl)morpholine gave the title compound as the free base which was converted to the dihydrochloride salt (MeOH/ethereal HCl/diethyl ether), mp 310° C. (dec).

reactant | 1-chloro-4-methylpyridazino[4,5-b]indolizine | one equivalent | ClC1=NN=C(C2=C1C=C1C=CC=CN21)C | C11H8ClN3
reactant | 4-(2-aminoethyl)morpholine | 27 equivalents | NCCN1CCOCC1 | C6H14N2O
product | N-[2-(4-Morpholinyl)ethyl]-4-methylpyridazino[4,5-b]indolizin-1-amine | N1(CCOCC1)CCNC=1N=NC(=C2C1C=C1C=CC=CN21)C | C17H21N5O
